US06322775B1
3-methyl-1-phenyl-4,5-pyrazolinedione;
1-phenyl-4,5-pyrazolinedione; 3-tert-butyl-1-phenyl-4,5-pyrazolinedione; 1,3-diphenyl-4,5-pyrazolinedione; 1-phenyl-3-(4′-methylphenyl)-4,5-pyrazolinedione; 1-phenyl-3-(3′-methoxymethyl)-4,5-pyrazolinedione; 1-phenyl-3-(4′-methoxyphenyl)-4,5-pyrazolinedione; 1-phenyl-3-(4′-nitrophenyl)-4,5-pyrazolinedione; 3-methoxy-1-phenyl-4,5-pyrazolinedione; 3-ethoxy-1-phenyl-4,5-pyrazolinedione; 3-acetamido-1-phenyl-4,5-pyrazolinedione; 3-dimethylamino-1-phenyl-4,5-pyrazolinedione; 3-diethylamino-1-phenyl-4,5-pyrazolinedione; 3-carboxy-1-phenyl-4,5-pyrazolinedione; 3-methoxycarbonyl-1-phenyl-4,5-pyrazolinedione; 3-ethoxycarbonyl-1-phenyl-4,5-pyrazolinedione;

reactant | 1-phenyl-4,5-pyrazolinedione | C1(=CC=CC=C1)N1NCC(C1=O)=O | C9H8N2O2
reactant | 3-tert-butyl-1-phenyl-4,5-pyrazolinedione | C(C)(C)(C)C1NN(C(C1=O)=O)C1=CC=CC=C1 | C13H16N2O2
reactant | 1,3-diphenyl-4,5-pyrazolinedione | C1(=CC=CC=C1)N1NC(C(C1=O)=O)C1=CC=CC=C1 | C15H12N2O2
reactant | 1-phenyl-3-(4′-methylphenyl)-4,5-pyrazolinedione | C1(=CC=CC=C1)N1NC(C(C1=O)=O)C1=CC=C(C=C1)C | C16H14N2O2
reactant | 1-phenyl-3-(4′-methoxyphenyl)-4,5-pyrazolinedione | C1(=CC=CC=C1)N1NC(C(C1=O)=O)C1=CC=C(C=C1)OC | C16H14N2O3
reactant | 1-phenyl-3-(4′-nitrophenyl)-4,5-pyrazolinedione | C1(=CC=CC=C1)N1NC(C(C1=O)=O)C1=CC=C(C=C1)[N+](=O)[O-] | C15H11N3O4
reactant | 3-methoxy-1-phenyl-4,5-pyrazolinedione | COC1NN(C(C1=O)=O)C1=CC=CC=C1 | C10H10N2O3
reactant | 3-ethoxy-1-phenyl-4,5-pyrazolinedione | C(C)OC1NN(C(C1=O)=O)C1=CC=CC=C1 | C11H12N2O3
reactant | 3-acetamido-1-phenyl-4,5-pyrazolinedione | C(C)(=O)NC1NN(C(C1=O)=O)C1=CC=CC=C1 | C11H11N3O3
reactant | 3-dimethylamino-1-phenyl-4,5-pyrazolinedione | CN(C1NN(C(C1=O)=O)C1=CC=CC=C1)C | C11H13N3O2
reactant | 3-diethylamino-1-phenyl-4,5-pyrazolinedione | C(C)N(C1NN(C(C1=O)=O)C1=CC=CC=C1)CC | C13H17N3O2
reactant | 3-carboxy-1-phenyl-4,5-pyrazolinedione | C(=O)(O)C1NN(C(C1=O)=O)C1=CC=CC=C1 | C10H8N2O4
reactant | 3-methoxycarbonyl-1-phenyl-4,5-pyrazolinedione | COC(=O)C1NN(C(C1=O)=O)C1=CC=CC=C1 | C11H10N2O4
reactant | 3-ethoxycarbonyl-1-phenyl-4,5-pyrazolinedione | C(C)OC(=O)C1NN(C(C1=O)=O)C1=CC=CC=C1 | C12H12N2O4
product | 3-methyl-1-phenyl-4,5-pyrazolinedione | CC1NN(C(C1=O)=O)C1=CC=CC=C1 | C10H10N2O2
